US09193697B2
To a solution of N-{2-[(4-chlorophenyl)sulfanyl]ethyl}tetrahydro-2H-pyran-4-carboxamide (9.48 g, 31.6 mmol) in chlorobenzene (316 ml) was added NCS (8.44 g, 63.2 mmol) by portions and the reaction mixture was stirred at RT for 1 h. TFA (1.218 ml, 15.81 mmol) was added and the reaction mixture was stirred at RT for 16 h. The reaction mixture was diluted with DCM, washed with aq NaHCO3, dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography (silica 2×330 g, 0 to 50% EtOAc in hexane), to give 5-[(4-chlorophenyl)sulfanyl]-2-(tetrahydro-2 H-pyran-4-yl)-1,3-oxazole (7.45 g) as a white solid. MS: M+H=296. H′NMR (400 MHz, CDCl3) δ: 7.27 (d, J=10.3 Hz, 2 H), 7.26 (s, 1 H), 7.17 (d, J=10.3 Hz, 2 H), 4.01 (dt, J=33, 12.2 Hz, 2 H), 3.51 (td, J=3.7, 12.2 Hz, 2 H), 3.10-3.00 (m, 1 H), 2.04-1.85 (m, 4 H).

reactant | N-{2-[(4-chlorophenyl)sulfanyl]ethyl}tetrahydro-2H-pyran-4-carboxamide | 31.6 mmol, 9.48 g | ClC1=CC=C(C=C1)SCCNC(=O)C1CCOCC1 | C14H18ClNO2S
reactant | NCS | 63.2 mmol, 8.44 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | TFA | 15.81 mmol, 1.218 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | chlorobenzene | 316 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-[(4-chlorophenyl)sulfanyl]-2-(tetrahydro-2 H-pyran-4-yl)-1,3-oxazole | 7.45 g | ClC1=CC=C(C=C1)SC1=CN=C(O1)C1CCOCC1 | C14H14ClNO2S
